US06498169B1
Synthesis of 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-[N-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-N-methylamino]piperidine Tetrahydrochloride
1-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-methylamino-piperidine (195 mg) and 2-(4-chloro-3,5-dimethoxyphenyl)-4-chloromethylpyridine (152 mg) were condensed in the same manner as described in Example 2. A free base obtained was converted to a tetrahydrochloride giving yellow powder.

reactant | 1-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-methylamino-piperidine | 195 mg | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CN1CCC(CC1)NC)OC | C20H26ClN3O2
reactant | 2-(4-chloro-3,5-dimethoxyphenyl)-4-chloromethylpyridine | 152 mg | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CCl)OC | C14H13Cl2NO2
product | 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-[N-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-N-methylamino]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CN1CCC(CC1)N(C)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)Cl)OC)OC | InChI=1S/C34H38Cl2N4O4.4ClH/c1-39(20-22-6-10-37-27(14-22)24-16-29(41-2)33(35)30(17-24)42-3)26-8-12-40(13-9-26)21-23-7-11-38-28(15-23)25-18-31(43-4)34(36)32(19-25)44-5;;;;/h6-7,10-11,14-19,26H,8-9,12-13,20-21H2,1-5H3;4*1H
